US05411966
1,1-Diethyl-3-(2,6-dimethyl-13-isopropyl-8alpha-ergolinyl)-urea
1,1-Diethyl-3-[13-(1-hydroxy-1-methyl-1-ethyl)-2,6-dimethyl- 8alpha-ergolinyl]-urea (0.5 mmol) is dissolved in 5 ml of glacial acetic acid and 0.25 g of sodium borohydride is added. After 15 minutes of stirring at room temperature, ice is added, it is made alkaline with conc. ammonia and extracted with ethyl acetate. The organic phases are dried with sodium sulfate and concentrated by evaporation, the residue is chromatographed on silica gel with dichloromethane/methanol, yield 76 mg (38% of theory).

reactant | 1,1-Diethyl-3-[13-(1-hydroxy-1-methyl-1-ethyl)-2,6-dimethyl- 8alpha-ergolinyl]-urea | 0.5 mmol | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC(=CC([C@H]2C1)=C34)C(C)(C)O)C)C)CC | C24H36N4O2
reactant | sodium borohydride | 0.25 g | [BH4-].[Na+]
reactant | ammonia | N | H3N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1,1-Diethyl-3-(2,6-dimethyl-13-isopropyl-8alpha-ergolinyl)-urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC(=CC([C@H]2C1)=C34)C(C)C)C)C)CC | C24H36N4O
